Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ - exploratory laparotomy, ileotomy, gallstone removal
 
History of Present Illness:
___ with dementia transfered from OSH with a 3-day history of 
nausea and vomiting. Per patient/family report, pt developed 
nausea with a few episodes of nonbloody, nonbilious emesis three 
days ago. He became progressively weaker in the setting of 
almost no oral intake during this time.  The patient and family
otherwise deny complaints of abdominal pain, fevers/chills, 
diarrhea, or hematochezia. He cannot recall his last bowel 
movement, but feels he has not passed stool or flatus in at 
least 48 hours. He presented to ___ last evening 
for evaluation, and CT imaging revealed findings consistent with
gallstone ileus causing small bowel obstruction.  He was 
transfered to ___ for further management.

On arrival to ___, pt was found to be tachycardic (HR 115) 
with mild hypotension (SBP 90), for which he was started on IVF 
resuscitation. During placement of a nasogastric tube the pt 
vomited, suffering a concomitant aspiration. He subsequently 
developed respiratory distress and eventually required 
intubation after failing noninvasive support.
 
Past Medical History:
PMH: HTN, Dementia, HLD
PSH: denies

 
Social History:
___
Family History:
N/C

 
Physical Exam:
Admission Exam:
Vitals: 98.9  110  105/68  18  95% facemask
GEN: NAD. Alert w/ mild confusion.
HEENT: No scleral icterus. Mucous membranes dry.
CV: Reg rhythm but tachycardic.
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender to deep palpation.
DRE: Normal tone. No gross blood. Heme-occult negative.
Ext: ___ warm with palpable DP pulses and no edema.

Physical examination upon discharge:  ___:

Vital signs:  t=97.9, bp=135/80, hr=72, rr=20

General:  Sitting comfortably in chair

CV:  Ns1, s2, -3, -s4
LUNGS:  Clear
ABDOMEN:  soft, non-tender, midline incision with steri-strips
EXT:  no pedal edema bil., + dp bil., no calf tenderness bil
NEURO:  oriented to name, disoriented to time, place, 
cooperative, follows commands

 
Pertinent Results:
___ 06:55AM BLOOD WBC-6.9 RBC-3.84* Hgb-11.8* Hct-37.3* 
MCV-97 MCH-30.8 MCHC-31.7 RDW-12.9 Plt ___
___ 06:55AM BLOOD Glucose-110* UreaN-20 Creat-0.9 Na-140 
K-3.9 Cl-111* HCO3-22 AnGap-11
___ 06:55AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.0
___ 01:55PM BLOOD WBC-7.2 RBC-3.83* Hgb-11.9* Hct-37.3* 
MCV-98 MCH-31.1 MCHC-31.9 RDW-12.9 Plt ___
___ 02:06AM BLOOD WBC-12.5* RBC-3.40* Hgb-10.5* Hct-32.3* 
MCV-95 MCH-31.0 MCHC-32.6 RDW-13.2 Plt ___
___ 07:15PM BLOOD WBC-6.0 RBC-4.26* Hgb-13.6* Hct-41.6 
MCV-98 MCH-32.0 MCHC-32.7 RDW-13.3 Plt ___
___ 09:21AM BLOOD WBC-5.0 RBC-4.57* Hgb-14.3 Hct-42.9 
MCV-94 MCH-31.3 MCHC-33.4 RDW-12.9 Plt ___
___ 01:20AM BLOOD WBC-5.4 RBC-5.06 Hgb-16.1 Hct-46.7 MCV-92 
MCH-31.8 MCHC-34.5 RDW-12.8 Plt ___
___ 01:57AM BLOOD Neuts-69 Bands-5 Lymphs-12* Monos-7 Eos-0 
Baso-0 ___ Metas-5* Myelos-2*
___ 01:55PM BLOOD Plt ___
___ 02:16AM BLOOD Plt ___
___ 12:34AM BLOOD ___ PTT-28.6 ___
___ 01:20AM BLOOD ___ PTT-28.6 ___
___ 01:55PM BLOOD Glucose-130* UreaN-21* Creat-1.0 Na-140 
K-4.7 Cl-108 HCO3-19* AnGap-18
___ 02:16AM BLOOD Glucose-116* UreaN-22* Creat-0.9 Na-140 
K-3.6 Cl-108 HCO3-19* AnGap-17
___ 01:54AM BLOOD Glucose-115* UreaN-25* Creat-1.0 Na-143 
K-3.8 Cl-110* HCO3-25 AnGap-12
___ 07:15PM BLOOD Glucose-142* UreaN-77* Creat-1.5* Na-137 
K-3.7 Cl-106 HCO3-23 AnGap-12
___ 09:21AM BLOOD Glucose-133* UreaN-91* Creat-1.8* Na-139 
K-3.9 Cl-105 HCO3-23 AnGap-15
___ 01:20AM BLOOD Glucose-162* UreaN-102* Creat-2.1* Na-134 
K-3.6 Cl-97 HCO3-21* AnGap-20
___ 06:04PM BLOOD CK(CPK)-25*
___ 10:04PM BLOOD Lipase-49
___ 01:08AM BLOOD CK-MB-1 cTropnT-0.40*
___ 02:00AM BLOOD cTropnT-0.68*
___ 06:04PM BLOOD CK-MB-1 cTropnT-0.78*
___ 01:55PM BLOOD Calcium-8.6 Phos-2.8 Mg-2.1
___ 02:16AM BLOOD Calcium-8.5 Phos-3.0 Mg-2.0
___ 01:57AM BLOOD Triglyc-254*
___ 10:04PM BLOOD Cortsol-28.3*
___ 08:30AM BLOOD Vanco-20.3*
___ 01:20AM BLOOD freeCa-1.09*
___ 06:51PM BLOOD freeCa-1.17

___:  EKG:  

Sinus rhythm. A-V conduction delay. Inferior myocardial 
infarction, age 
indeterminate. No previous tracing available for comparison.

___:  chest x-ray:

  
1. Enlarged aortic arch and extensively calcified aortic arch, 
worrisome for aneurysmal dilatation. If warranted by clinical 
situation, further evaluation could be performed with Chest CTA. 
 
  
2. Reticular pulmonary opacities, most compatible with chronic 
lung disease. 
  
3. Bibasilar atelectasis

___:  chest x-ray:

 
FINDINGS: New right internal jugular line tip is at lower 
SVC/cavoatrial 
junction approximately 3.2 cm from the carina. Orogastric tube 
courses below the diaphragm and ends into the body of the 
stomach and is appropriately positioned. Since prior radiograph 
acquired several hours apart, bibasilar atelectasis persists 
with interval worsening on the right side and unchanged on the 
left side. Small pleural effusion on the right side is similar. 
Upper lungs are clear. There is no pneumothorax. Heart size, 
mediastinal and hilar contours have stable appearance.

___:  EKG:

 Supraventricular rhythm at the upper limits of normal rate with 
P-R interval 
prolongation. Low amplitude P waves merged with the T wave. 
Cannot rule out atrial tachycardia with 2:1 block. RSR' pattern 
in leads V1-V2. Q waves in leads III and aVF - consider inferior 
myocardial infarction. Since the previous tracing the rate is 
faster. The P-R interval is longer with a difference in the P 
wave which may be related to fusion with a T wave. 
Clinical correlation is suggested.  
TRACING #1

___:  ECHO:

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global systolic function. The left ventricle is 
compressed by a severely dilated and hypokinetic right 
ventricle. The RV apical function is relatively preserved which 
is a non-specific sign but could be due to pulmonary embolism. 
Moderate tricuspid regurgitation and at least moderate pulmonary 
hypertension.

___:  EKG:

Sinus bradycardia with sinus arrhythmia and P-R interval 
prolongation. 
Prolonged Q-T interval. Borderline low precordial QRS votlage. T 
wave 
inversions in leads VI-V4 and in the inferior leads. Slightly 
delayed anterior R wave progression - cannot exclude prior 
anteroseptal myocardial infarction. 
Compared to the previous tracing of ___ T wave inversion is 
more prominent in leads II and V3. RSR' pattern has resolved, 
likely due to changes in electrode placement. Anterior R wave 
progression has improved.An ongoing inferior and anterior 
ischemic process cannot be excluded. Clinical correlation is 
suggested 

___:  chest x-xay:

Moderate cardiomegaly is stable. Left lower lobe retrocardiac 
consolidation and ill-defined opacities in the right mid and 
lower lungs are stable, concerning for aspiration. There are no 
new lung abnormalities, pneumothorax or enlarging pleural 
effusions. Lines and tubes are in unchanged standard 
position 

___:  x-ray of the abdomen:

IMPRESSION: Findings consistent with resolving small-bowel 
obstruction from ___ with decreased gaseous distention of the 
small bowel and progression of oral contrast into the proximal 
colon.

___:  cat scan of abdomen and chest:

 Multifocal pneumonia/aspiration pneumonia within the right 
upper, middle, 
and lower lobes. 
  
2. Small bilateral pleural effusions with associated 
atelectasis. 
  
3. Fusiform infrarenal abdominal aortic aneurysm as well as 
aneurysmal 
dilatation of the right common iliac artery and a saccular 
aneurysm arising off the right internal iliac artery with 
significant mural thrombus. 
  
4. Dilatation of loops of small bowel within the left abdomen 
and pelvis.  
The degree of small bowel dilatation overall has generally 
decreased and this likely reflects a persistent ileus, although 
a partial small bowel obstruction is not entirely excluded. 
  
5. Enlarged right hilar lymph node presumably reactive. 
Following resolution of acute symptoms a follow-up Chest CT is 
recommended. 
  
6. Emphysema. 
  
7. Pulmonary arterial hypertension. 
  
8. Probably duodenal lipoma

___:  EKG:

Sinus bradycardia. P-R interval prolongation. Borderline low 
limb lead 
voltage. Mild Q-T interval prolongation. Early R wave 
progression. 
RSR' pattern in lead V1. Borderline intraventricular conduction 
delay.  
ST-T wave abnormalities. Since the previous tracing of ___ 
the Q-T interval is now shorter. Otherwise, unchanged.  
TRACING #1 

___:  EKG:

Probable sinus rhythm with atrial premature beats. Since the 
previous tracing the rate has increased. Atrial ectopy is new. 
The QRS complex is narrower. ST-T wave abnormalities are less 
prominent.

___:  chest x-ray:

FINDINGS: As compared to the previous radiograph, the known 
multifocal 
pneumonia, with a maximum manifestation at the right lung base, 
is unchanged in extent and severity. Unchanged moderate 
cardiomegaly without pulmonary edema. Unchanged monitoring and 
support devices. No newly appeared focal parenchymal opacities.

___:  chest x-ray:

Compared to the prior radiograph, there has been no change. 
Right sided 
extensive opacities remain. Left-sided patchy opacities also 
remain. Moderate cardiomegaly and areas of atelectasis 
bilaterally is unchanged. Right-sided IJ terminates in the 
mid-to-distal SVC.

___:  chest x-ray:

Rotated lordotic positioning. Allowing for this, the 
cardiomediastinal 
silhouette is likely stable. There are patchy opacities at the 
right and left bases, similar, possibly minimally improved, 
compared with ___ at 5:46 a.m. Doubt CHF. No gross 
effusion.

___ 5:01 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    SPARSE GROWTH. 

___ 12:29 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    SPARSE GROWTH. 

___ 8:28 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___: 
      POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS. 

 
  
 
 
  
 

  

 
  

  

  

  
 
  

 
Brief Hospital Course:
The patient presented to the ___ 
___ with gallstone ileus. He had a gastric tube placed, but 
was removed during transport.  He was hypoxic upon admission.  A 
___ tube was replaced with subsequent vomitting.  He 
was emergently intubated and taken to the operating room  on 
___ for exploratory laparotomy, ileotomy and stone 
extraction. He tolerated the procedure well and was transferred 
to the intensive care unit for further care:

Posoperatively, the patient was hypotensive and required fluid 
boluses. A NICOM was placed that showed adequate cardiac output. 
He was then started on intermittent levophed, vasopressin, and 
dopamine.  As his hemodynamic status improved, the pressors were 
weaned off by HD# 5. The patient was also noted to have a 
troponin increase  to 0.8 and was intermittently bradycardic. He 
underwent an Echocardiogaram which showed left ventricular 
hypertrophy with an ejection fraction of >55%. He was seen by 
Cardiology who atributed the changes to demand ischemia. On HD#4 
the patient developed an arrythmia and there was concern for a 
pulmonary embolism.  A CTA was performed which was negative for 
a pulmonary embolism.  He otherwise had no cardiovascular 
issues.

During the hospital course, the patient required fluid 
resuscitation and became fluid overloaded.  As a result of this, 
he was difficult to ventilate and had to be paralyzed and 
required several ventilatory mode changes. He was started on a 
lasix drip to help decrease his overload.  This was discontinued 
after 48 hours because of an increase in his creatinine. He 
subsuequently auto-diuresised down to his dry weight. On HD #5, 
he was started on tube feedings and gradually advanced to his 
goal.   He was slowly weaned and extubated on POD#8. He was 
maintained on a face mask throught POD #9 and weaned to nasal 
cannula on POD #11.  He was placed on a 1 week course of zosyn 
and vancomycin for his aspiration pneumonitis.   His oxygen 
requirement slowly resolved.  He was evaluated by Speech and 
Swallow to determine his ability to safely swallow without 
aspiration.     

On HD #5, the patient was started on tube feedings and slowly 
advanced to goal.  He was evaluated by Speech and Swallow who 
advanced him to a soft solid diet.  By POD 10 he was on a 
regular diet and calorie counts were begun to measure the 
magnitude of his oral intake.  He was tolerating a regular diet 
upon discharge. 

He was transferred to the surgical floor on HD #13.  His vital 
signs have been stabie and he has been afebrile. His white blood 
cell count has normalized and his hematocrit has been stable.  
He was tolerating a regular diet.  He has been evaluated by 
physical therapy and recommendations made for discharge to an 
extended care facility where he can futhter regain his strength 
and mobility.

****Of note:  x-ray of the abdomen on ___ showed enlarged 
right hilar lymph node and recommendation per radiology for a 
repeat cat scan in the future.    

 
Medications on Admission:
Atorvastatin 20', Amlodipine 10', Losartan 100', Vitamin B12, 
ASA (unknown dosage), Exelon patch 9.5mg/24hrs

 
Discharge Medications:
1. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
2. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for fungal infection.  
3. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
once a day as needed for constipation.  
4. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q6H (every 6 hours) as 
needed for wheezing.  
6. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
hold for systolic blood pressure <110, hr <60.  
7. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
9. quetiapine 25 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
10. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
11. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
hold for loose stool.  
12. white petrolatum-mineral oil 56.8-42.5 % Ointment Sig: One 
(1) Appl Ophthalmic PRN (as needed) as needed for dry eyes.  
13. Exelon 9.5 mg/24 hour Patch 24 hr Sig: One (1) patch 
Transdermal daily ().  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
aspiration
gallstone ileus
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with nausea and vomitting.  
You were found on cat scan to have a gallstone ileus and a small 
bowel obstruction.  You had a tube placed into your stomach for 
decompression and you subsequently vomitted with some fluid 
entering your lungs and causing pneumonia.  You were taken to 
the operating room where you had an exploratory laparotomy and 
removal of the gallstone which was causing the obstruction.  You 
were monitored in the intensive care unit after the surgery 
where you required intravenous medication to support your blood 
pressure.  You vital signs gradually improved and you were 
transferred to the surgical floor.  You are now preparing for 
discharge where you can regain your strength and mobility.   
 
Followup Instructions:
___